US04116956
To a solution of 2.9 parts of 7-chloro-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepine-2-thione in a mixture of 2.5 parts by volume of dimethylsulfoxide and 100 parts by volume of ethanol is added 5 parts by volume of 80% hydrazine hydrate, and the mixture is allowed to stand for 24 hours. After evaporation of the solvent under reduced pressure, the residue is diluted with water, followed by extraction with methylene chloride. The methylene chloride layer is dried over sodium sulfate and the solvent is evaporated. Treatment of the residue with benzene gives 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine. Recrystallization from a mixture of methylene chloride and benzene gives crystals melting at 205° C to 207° C (decomposition) which are confirmed to be identical with the product prepared in Examples 1 and 9.

reactant | 7-chloro-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepine-2-thione | ClC=1C=CC2=C(C(=NCC(N2)=S)C2=CC=CC=C2)C1 | C15H11ClN2S
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
